US07214800B2
A solution of (±)-N-{2-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-1,1-dimethyl-ethyl }-3-fluoro-4-methyl-benzamide (120 mg, 0.219 mmol) in phosphorus oxychloride (2 mL) was heated at reflux. After 8 hours, the reaction mixture was allowed to cool to ambient temperature and concentrated under reduced pressure. The residue was dissolved in dichloromethane (10 mL) and washed with two 10 mL portions of saturated aqueous sodium bicarbonte. The combined aqueous layers were extracted with dichloromethane and the extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (3% methanol/dichloromethane) to give (±)-3-benzyl-7-chloro-2-{1-[2-(3-fluoro-4-methyl-phenyl)-4,4-dimethyl-4,5-dihydro-imidazol-1-yl]-2-methyl-propyl}-3H-quinazolin-4-one (64 mg, 55%) as a white solid: LCMS 531 (M+−H)

reactant | (±)-N-{2-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-1,1-dimethyl-ethyl }-3-fluoro-4-methyl-benzamide | 0.219 mmol, 120 mg | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)NCC(C)(C)NC(C1=CC(=C(C=C1)C)F)=O | C31H34ClFN4O2
solvent | phosphorus oxychloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (±)-3-benzyl-7-chloro-2-{1-[2-(3-fluoro-4-methyl-phenyl)-4,4-dimethyl-4,5-dihydro-imidazol-1-yl]-2-methyl-propyl}-3H-quinazolin-4-one | 64 mg, 55% | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)N1C(=NC(C1)(C)C)C1=CC(=C(C=C1)C)F | C31H32ClFN4O
